US04185016
12.9 g of L-proline methyl ester and 21.0 g of N,N'-dicyclohexylcarbodiimide were successively added to an ice-cooled and constantly stirred solution of 18.3 g of 3-hydroxy-2-nitrobenzoic acid dissolved in a mixture consisting of 360 ml of dichloromethane and 30 ml of N,N'-dimethylformamide, and then the same treatment as in Example 1 was carried out. Thus, there was obtained 24.2 g of 1-(3-hydroxy-2-nitrobenzoyl)-L-proline methyl ester as a yellow-colored needle-like crystal having a melting point of 114° to 116° C.

reactant | L-proline methyl ester | 12.9 g | COC([C@H]1NCCC1)=O | C6H11NO2
reactant | N,N'-dicyclohexylcarbodiimide | 21.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-hydroxy-2-nitrobenzoic acid | 18.3 g | OC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C7H5NO5
reactant | dichloromethane | 360 ml | ClCCl | CH2Cl2
solvent | N,N'-dimethylformamide | 30 ml | CN(C)C=O | C3H7NO
product | 1-(3-hydroxy-2-nitrobenzoyl)-L-proline methyl ester | 24.2 g | COC([C@H]1N(CCC1)C(C1=C(C(=CC=C1)O)[N+](=O)[O-])=O)=O | C13H14N2O6
